US07786132B2
N-(4-Fluorophenyl)thiazol-2-amine
1-(4-fluorophenyl)thiourea (2.00 g, 11.7 mmol) and 2-chloroacetaldehyde(3.72 mL, 58.6 mmol) in anhydrous ethanol (5 mL) were added to a microwave vial. The reaction mixture was heated to 80° C. in a microwave reactor for 20 min. On cooling, ethyl acetate (2 mL) was added to the crude product reaction mixture and pure product crystallized out. This filtered off, washed with hexane and air-dried to afford the title compound as a crystalline brown solid, 1.568 g. MS (M+H)+ 195.

reactant | 1-(4-fluorophenyl)thiourea | 11.7 mmol, 2.00 g | FC1=CC=C(C=C1)NC(=S)N | C7H7FN2S
reactant | 2-chloroacetaldehyde | 58.6 mmol, 3.72 mL | ClCC=O | C2H3ClO
reactant | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | N-(4-Fluorophenyl)thiazol-2-amine | FC1=CC=C(C=C1)NC=1SC=CN1 | C9H7FN2S
